US08557834B2
N-[(1,3-Dicyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonothioyl]glycine
A mixture of 1,3-dicyclohexyl-2,4,6(1H,3H,5H)-pyrimidinetrione (660 mg, 2.25 mmoles), diisopropylethylamine (780 uL, 4.5 mmoles) and ethyl isothiocyanatoacetate (340 uL, 2.75 mmoles) in chloroform (20 mL) was stirred overnight. The mixture was washed with 1 molar hydrochloric acid (×2), dried and evaporated. The solid residue was purified by flash chromatography (dichloromethane) and the fractions evaporated, dissolved in ethanol (5 mL, some heating) and treated with 1 molar sodium hydroxide (3 mL). The mixture was stirred for 30 minutes and acidified to give a solid which recrystallized from ethanol-water to give the title compound (135 mg, 15%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.16 (s, 1 H), 12.54 (t, J=4.80 Hz, 1 H), 4.69 (t, J=12.00 Hz, 2 H), 4.35 (d, J=5.05 Hz, 2 H), 2.25 (q, 4 H), 1.79 (d, J=12.38 Hz, 4 H), 1.63 (d, J=12.38 Hz, 6 H), 1.29 (q, 4 H), 1.13 (q, 2 H).

reactant | 1,3-dicyclohexyl-2,4,6(1H,3H,5H)-pyrimidinetrione | 2.25 mmoles, 660 mg | C1(CCCCC1)N1C(N(C(CC1=O)=O)C1CCCCC1)=O | C16H24N2O3
reactant | diisopropylethylamine | 4.5 mmoles, 780 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl isothiocyanatoacetate | 2.75 mmoles, 340 uL | N(=C=S)CC(=O)OCC | C5H7NO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(1,3-Dicyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonothioyl]glycine | 135 mg, 15% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=S)NCC(=O)O)=O)C1CCCCC1)=O | C19H27N3O5S
